US07781591B2
To a stirred solution of 4-[(7-chloro-4-methyl-1H-indol-5-yl)amino]-5-iodonicotinonitrile (534 mg, 1.3 mmol) in DME (30 mL) was added diisopropyl 4-(2-chloroethoxy)phenylboronate (754 mg, 2.6 mmol), sodium carbonate solution (2.7 mL of 2M solution, 5.4 mmol) and tetrakis(triphenylphosphine)palladium(0) (150 mg, 0.15 mmol) under nitrogen atmosphere and the reaction mixture was heated at 80° C. for 6 h and cooled to room temperature. Ethyl acetate was added and the organic phase was washed with saturated sodium bicarbonate solution and saturated sodium chloride solution, dried over magnesium sulfate, and concentrated. The residue was purified by flash column chromatography (ethyl acetate/hexane) to give 5-[4-(2-chloroethoxy)phenyl]-4-[(7-chloro-4-methyl-1H-indol-5-yl)amino]nicotinonitrile as a yellow solid (482 mg, 84%). HPLC retention time: 10.7 min.(g) and MS: 437.2 (M+H).

reactant | 4-[(7-chloro-4-methyl-1H-indol-5-yl)amino]-5-iodonicotinonitrile | 1.3 mmol, 534 mg | ClC=1C=C(C(=C2C=CNC12)C)NC1=C(C=NC=C1C#N)I | C15H10ClIN4
reactant | diisopropyl 4-(2-chloroethoxy)phenylboronate | 2.6 mmol, 754 mg | ClCCOC1=CC=C(C=C1)B(OC(C)C)OC(C)C | C14H22BClO3
reactant | sodium carbonate | 5.4 mmol, 2M, 2.7 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DME | 30 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.15 mmol, 150 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-[4-(2-chloroethoxy)phenyl]-4-[(7-chloro-4-methyl-1H-indol-5-yl)amino]nicotinonitrile | 482 mg, 84% | ClCCOC1=CC=C(C=C1)C=1C=NC=C(C#N)C1NC=1C(=C2C=CNC2=C(C1)Cl)C | C23H18Cl2N4O
